US08703758B2
H) N-[1-methyl-3-(piperidin-4-yl)propyl]acetamide hydrochloride
To a solution of tert-butyl 4-[3-(acetylamino)butyl]piperidine-1-carboxylate (2.65 g) in ethyl acetate (30 mL) was added 4 M hydrogen chloride/ethyl acetate (10 mL), and the mixture was stirred at room temperature for 3 hr. The resulting precipitate was collected by filtration to give the title compound (2.06 g).

reactant | tert-butyl 4-[3-(acetylamino)butyl]piperidine-1-carboxylate | 2.65 g | C(C)(=O)NC(CCC1CCN(CC1)C(=O)OC(C)(C)C)C | C16H30N2O3
reactant | hydrogen chloride ethyl acetate | 4 M, 10 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-[1-methyl-3-(piperidin-4-yl)propyl]acetamide hydrochloride | 2.06 g | Cl.CC(CCC1CCNCC1)NC(C)=O | InChI=1S/C11H22N2O.ClH/c1-9(13-10(2)14)3-4-11-5-7-12-8-6-11;/h9,11-12H,3-8H2,1-2H3,(H,13,14);1H
